US05686424
Using the procedure described in Example 5, a solution of L-proline-L-isoleucine benzylamide (114 mg, 0.36 mmol), and triethylamine (0.10 mL, 0.78 mmol, 2.0 eq), in THF (10 mL), was treated with 255 mg (1.76 mmol, 5.0 eq) of 2-(alpha-chloroacyl)furan (prepared from 2-furoic acid, using the procedure described in example 1) to provide 130 mg, (85%) of L-isoleucine, N-[1-(2-furan-2-yl-2-oxoethyl)-L-prolyl] benzylamide.

reactant | L-proline L-isoleucine benzylamide | 0.36 mmol, 114 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | triethylamine | 0.78 mmol, 0.10 mL, 2.0 eq | C(C)N(CC)CC | C6H15N
reactant | 2-furoic acid | O1C(=CC=C1)C(=O)O | C5H4O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | L-isoleucine, N-[1-(2-furan-2-yl-2-oxoethyl)-L-prolyl] benzylamide | 85% | O1C(=CC=C1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C24H31N3O4
